US07863302B2
6-Chloro-1-isopropyl-2-methyl-1H-indole-3-carboxylic acid methyl ester
A mixture of 6-chloro-2-methyl-1H-indole-3-carboxylic acid methyl ester (300 mg, 1.34 mmol), 2-bromopropane (1.75 mL, 18.6 mmol), potassium carbonate (743 mg, 5.37 mmol) and DMF (3.5 mL) is heated to 100° C. for 14 h. The mixture is diluted with water and extracted with ether. The ether layers are washed with water and brine and dried over MgSO4. The residue is purified via flash chromatography eluting with 80% CH2Cl2-heptane to give the title compound (217 mg, 61%) as a white solid. ES/MS m/e 266.0 (M+1).

reactant | 6-chloro-2-methyl-1H-indole-3-carboxylic acid methyl ester | 1.34 mmol, 300 mg | COC(=O)C1=C(NC2=CC(=CC=C12)Cl)C | C11H10ClNO2
reactant | 2-bromopropane | 18.6 mmol, 1.75 mL | BrC(C)C | C3H7Br
reactant | potassium carbonate | 5.37 mmol, 743 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 3.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-Chloro-1-isopropyl-2-methyl-1H-indole-3-carboxylic acid methyl ester | 217 mg, 61% | COC(=O)C1=C(N(C2=CC(=CC=C12)Cl)C(C)C)C | C14H16ClNO2
